US06884868B1
A mixture of 1-bromo-4-(6-bromohexyloxy)benzene (6.0 g) and sodium methylate (28% in methanol) (10.3 ml) in methanol (30 ml) was stirred for 2 hours at 70° C. (bath temp.), and then the solvent was evaporated. The residue was neutralized by 1N-hydrochloric acid and extracted with ethyl acetate (100 ml), and washed with water and brine. The organic layer was dried over magnesium sulfate. Magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure to give a crude product. The crude product was purified by silica gel chromatography (20:1-10:1 hexane-ethyl acetate) to give 1-bromo-4-(6-methoxyhexyloxy)benzene (15.61 g) as a colorless oil.

reactant | 1-bromo-4-(6-bromohexyloxy)benzene | 6.0 g | BrC1=CC=C(C=C1)OCCCCCCBr | C12H16Br2O
reactant | sodium methylate | 10.3 ml | C[O-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | 1-bromo-4-(6-methoxyhexyloxy)benzene | 15.61 g | BrC1=CC=C(C=C1)OCCCCCCOC | C13H19BrO2
